data/rdb19/train.csv
rxn,smiles,ea
2737,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:23]([C:21]([C:20]([H:26])([H:27])[H:28])=[C:22]([H:29])[H:30])([O:24])[O:25][H:31])([H:13])[H:14])([H:10])([H:11])[H:12]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])([C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])[C:23](=[O:24])[O:25][H:31])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20]([C:21]=[C:22]([H:29])[H:30])([H:26])([H:27])[H:28],10.005353777960408
1576,[C:15]([C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:16]([O:17][C:18](=[O:19])[C:20](=[C:21]([H:28])[H:29])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([H:4])([H:5])[C:15]([H:22])([H:23])[H:24])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11],57.07330613071099
2311,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([O:9][C:10](=[O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22])([H:15])([H:16])[H:17]>>[C:1](=[C:2]([H:3])[H:4])([H:6])[H:7].[H:5][C:10]([O:9][C:8]([H:15])([H:16])[H:17])([O:11])[C:12](=[C:13]([H:18])[H:19])[C:14]([H:20])([H:21])[H:22],49.93026730715064
4788,[C:1]([H:2])([H:3])[H:4].[C:5](=[C:6]([N:7]([C:8](=[O:9])[H:14])[H:13])[H:12])([H:10])[H:11]>>[C:1]([H:2])([H:3])([H:4])[N:7]([C:6](=[C:5]([H:10])[H:11])[H:12])[H:13].[C:8](=[O:9])[H:14],42.96520847204374
4046,[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])[H:10])([H:11])([H:12])[H:13].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25]([H:30])[H:31])[H:29])([H:26])([H:27])[H:28]>>[C:1]([O:2][C:3](=[O:4])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:8]([H:9])([H:10])[H:31])([H:11])([H:12])[H:13].[C:20]([C:21](=[O:22])[O:23][C:24](=[C:25][H:30])[H:29])([H:26])([H:27])[H:28],26.73096354835434
5010,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[C:1]([O:2][C:3](=[C:4]([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[H:20])([H:17])([H:18])[H:19].[C:1]([H:5])([H:6])([H:7])[H:21].[O:2][C:3](=[C:4]([H:9])[H:10])[H:8],69.0929208730231
5512,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2](=[O:3])[O:4][C:5](=[C:6]([H:11])[H:12])[H:10])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[O:3])[O:4][C:5]=[C:6]([H:11])[H:12])([H:7])([H:8])[H:9].[H:10][C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],27.51555711240508
1489,[C:10]([C:11]([C:12]([H:13])[H:14])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:21])([H:22])[H:23].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[O:1]([C:2]([O:3])([C:4](=[C:5]([H:8])[H:9])[H:7])[C:12]([C:11]([C:10]([H:21])([H:22])[H:23])([c:15]1[c:16]([H:25])[c:17]([H:26])[c:18]([H:27])[c:19]([H:28])[c:20]1[H:29])[H:24])([H:13])[H:14])[H:6],25.00560872920323
533,[C:1]([O:2][O:3])([H:4])([H:5])[H:6].[C:7](=[C:8]([N:9]([C:10](=[O:11])[H:16])[H:15])[H:14])([H:12])[H:13]>>[C:1]([O:2])([H:4])([H:5])[H:6].[O-:3][N+:9]([C:8](=[C:7]([H:12])[H:13])[H:14])([C:10](=[O:11])[H:16])[H:15],68.09479135775473
2876,[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])([C:23]([H:24])[H:25])[H:31])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17]([O:18][C:19](=[O:20])[C:21]([C:22]([H:32])([H:33])[H:34])=[C:23]([H:24])[H:25])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([O:3][C:4]([O:5])([C:6](=[C:7]([H:14])[H:15])[H:13])[H:31])([H:11])[H:12])([H:8])([H:9])[H:10],47.8775885530049
4916,[C:15](=[C:16]([c:17]1[c:18]([H:26])[c:19]([H:27])[c:20]([H:28])[c:21]([H:29])[c:22]1[H:30])[H:25])([H:23])[H:24].[C:1]([C:2]([C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2](=[C:3]([H:4])[O:5][C:6]([H:12])([H:13])[H:14])[H:10])([H:7])([H:8])[H:9].[H:11][C:19]1([H:27])[C:18]([H:26])=[C:17]([C:16](=[C:15]([H:23])[H:24])[H:25])[C:22]([H:30])=[C:21]([H:29])[C:20]1[H:28],40.24259897175944
2833,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])[C:8]([C:9]([H:17])([H:18])[H:19])([H:15])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[C:20](=[C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([H:7])=[C:8]([C:9]([H:17])([H:18])[H:19])[H:16])([H:13])[H:14])([H:10])([H:11])[H:12].[H:15][C:20]([C:21]([N:22]([C:23](=[O:24])[H:29])[H:28])[H:27])([H:25])[H:26],27.829620922449976
